US07799915B2
Step 3: Preparation of N-(3-hydroxypropyl)-4-({4-[4-(trifluoromethyl)phenyl]pyrimidin-2-yl}amino)benzenesulfonamide
To a solution of 4-({4-[4-(trifluoromethyl)phenyl]pyrimidin-2-yl}amino)benzenesulfonyl chloride (0.10 g, 0.25 mmol) in 2 ml of ethyl acetate is added 3-amino-1-propanol (0.19 g, 2.5 mmol) with stirring, at 0° C. The mixture is stirred at room temperature for 1 hr and then quenched with water (10 ml). The ethyl acetate is evaporated, the resulting suspension is filtered, and the precipitate is washed with water, and hexanes, and then dried in vacuo to give 0.10 g of a white solid; mp 204-205° C.; HRMS: calcd for C20H19F3N4O3S, 452.1130; found (ESI-FTMS, [M+H]1+), 453.12161.

reactant | 4-({4-[4-(trifluoromethyl)phenyl]pyrimidin-2-yl}amino)benzenesulfonyl chloride | 0.25 mmol, 0.10 g | FC(C1=CC=C(C=C1)C1=NC(=NC=C1)NC1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C17H11ClF3N3O2S
reactant | 3-amino-1-propanol | 2.5 mmol, 0.19 g | NCCCO | C3H9NO
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
product | N-(3-hydroxypropyl)-4-({4-[4-(trifluoromethyl)phenyl]pyrimidin-2-yl}amino)benzenesulfonamide | 0.10 g | OCCCNS(=O)(=O)C1=CC=C(C=C1)NC1=NC=CC(=N1)C1=CC=C(C=C1)C(F)(F)F | C20H19F3N4O3S
